*-- pdngen: spice deck generated for chip 'chiplet4' PDN
*-- die chiplet4:  W/H: 0.003/0.004


.subckt chiplet4
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_4_7
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
+nd_pad_port_5_6
*-- p/g port #: 24/24
+nd_1_0_666_5500

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_500 nd_1_0_2000_500 0.016324
rd_1_2_0_0_1 nd_1_0_2000_500 nd_1_0_3333_500 0.016324
rd_1_2_0_0_2 nd_1_0_3333_500 nd_1_0_4666_500 0.016324
rd_1_2_0_0_3 nd_1_0_4666_500 nd_1_0_6000_500 0.016324
rd_1_2_0_0_4 nd_1_0_6000_500 nd_1_0_7333_500 0.016324
rd_1_2_0_0_5 nd_1_0_7333_500 nd_1_0_8666_500 0.016324
rd_1_2_0_1_0 nd_1_0_666_1500 nd_1_0_2000_1500 0.016324
rd_1_2_0_1_1 nd_1_0_2000_1500 nd_1_0_3333_1500 0.016324
rd_1_2_0_1_2 nd_1_0_3333_1500 nd_1_0_4666_1500 0.016324
rd_1_2_0_1_3 nd_1_0_4666_1500 nd_1_0_6000_1500 0.016324
rd_1_2_0_1_4 nd_1_0_6000_1500 nd_1_0_7333_1500 0.016324
rd_1_2_0_1_5 nd_1_0_7333_1500 nd_1_0_8666_1500 0.016324
rd_1_2_0_2_0 nd_1_0_666_2500 nd_1_0_2000_2500 0.016324
rd_1_2_0_2_1 nd_1_0_2000_2500 nd_1_0_3333_2500 0.016324
rd_1_2_0_2_2 nd_1_0_3333_2500 nd_1_0_4666_2500 0.016324
rd_1_2_0_2_3 nd_1_0_4666_2500 nd_1_0_6000_2500 0.016324
rd_1_2_0_2_4 nd_1_0_6000_2500 nd_1_0_7333_2500 0.016324
rd_1_2_0_2_5 nd_1_0_7333_2500 nd_1_0_8666_2500 0.016324
rd_1_2_0_3_0 nd_1_0_666_3500 nd_1_0_2000_3500 0.016324
rd_1_2_0_3_1 nd_1_0_2000_3500 nd_1_0_3333_3500 0.016324
rd_1_2_0_3_2 nd_1_0_3333_3500 nd_1_0_4666_3500 0.016324
rd_1_2_0_3_3 nd_1_0_4666_3500 nd_1_0_6000_3500 0.016324
rd_1_2_0_3_4 nd_1_0_6000_3500 nd_1_0_7333_3500 0.016324
rd_1_2_0_3_5 nd_1_0_7333_3500 nd_1_0_8666_3500 0.016324
rd_1_2_0_4_0 nd_1_0_666_4500 nd_1_0_2000_4500 0.016324
rd_1_2_0_4_1 nd_1_0_2000_4500 nd_1_0_3333_4500 0.016324
rd_1_2_0_4_2 nd_1_0_3333_4500 nd_1_0_4666_4500 0.016324
rd_1_2_0_4_3 nd_1_0_4666_4500 nd_1_0_6000_4500 0.016324
rd_1_2_0_4_4 nd_1_0_6000_4500 nd_1_0_7333_4500 0.016324
rd_1_2_0_4_5 nd_1_0_7333_4500 nd_1_0_8666_4500 0.016324
rd_1_2_0_5_0 nd_1_0_666_5500 nd_1_0_2000_5500 0.016324
rd_1_2_0_5_1 nd_1_0_2000_5500 nd_1_0_3333_5500 0.016324
rd_1_2_0_5_2 nd_1_0_3333_5500 nd_1_0_4666_5500 0.016324
rd_1_2_0_5_3 nd_1_0_4666_5500 nd_1_0_6000_5500 0.016324
rd_1_2_0_5_4 nd_1_0_6000_5500 nd_1_0_7333_5500 0.016324
rd_1_2_0_5_5 nd_1_0_7333_5500 nd_1_0_8666_5500 0.016324
rd_1_2_0_6_0 nd_1_0_666_6500 nd_1_0_2000_6500 0.016324
rd_1_2_0_6_1 nd_1_0_2000_6500 nd_1_0_3333_6500 0.016324
rd_1_2_0_6_2 nd_1_0_3333_6500 nd_1_0_4666_6500 0.016324
rd_1_2_0_6_3 nd_1_0_4666_6500 nd_1_0_6000_6500 0.016324
rd_1_2_0_6_4 nd_1_0_6000_6500 nd_1_0_7333_6500 0.016324
rd_1_2_0_6_5 nd_1_0_7333_6500 nd_1_0_8666_6500 0.016324
rd_1_2_0_7_0 nd_1_0_666_7500 nd_1_0_2000_7500 0.016324
rd_1_2_0_7_1 nd_1_0_2000_7500 nd_1_0_3333_7500 0.016324
rd_1_2_0_7_2 nd_1_0_3333_7500 nd_1_0_4666_7500 0.016324
rd_1_2_0_7_3 nd_1_0_4666_7500 nd_1_0_6000_7500 0.016324
rd_1_2_0_7_4 nd_1_0_6000_7500 nd_1_0_7333_7500 0.016324
rd_1_2_0_7_5 nd_1_0_7333_7500 nd_1_0_8666_7500 0.016324
rd_1_2_0_8_0 nd_1_0_666_8500 nd_1_0_2000_8500 0.016324
rd_1_2_0_8_1 nd_1_0_2000_8500 nd_1_0_3333_8500 0.016324
rd_1_2_0_8_2 nd_1_0_3333_8500 nd_1_0_4666_8500 0.016324
rd_1_2_0_8_3 nd_1_0_4666_8500 nd_1_0_6000_8500 0.016324
rd_1_2_0_8_4 nd_1_0_6000_8500 nd_1_0_7333_8500 0.016324
rd_1_2_0_8_5 nd_1_0_7333_8500 nd_1_0_8666_8500 0.016324
rd_1_2_0_9_0 nd_1_0_666_9500 nd_1_0_2000_9500 0.016324
rd_1_2_0_9_1 nd_1_0_2000_9500 nd_1_0_3333_9500 0.016324
rd_1_2_0_9_2 nd_1_0_3333_9500 nd_1_0_4666_9500 0.016324
rd_1_2_0_9_3 nd_1_0_4666_9500 nd_1_0_6000_9500 0.016324
rd_1_2_0_9_4 nd_1_0_6000_9500 nd_1_0_7333_9500 0.016324
rd_1_2_0_9_5 nd_1_0_7333_9500 nd_1_0_8666_9500 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_500 nd_2_0_666_1500 0.016324
rd_2_1_0_0_1 nd_2_0_666_1500 nd_2_0_666_2500 0.016324
rd_2_1_0_0_2 nd_2_0_666_2500 nd_2_0_666_3500 0.016324
rd_2_1_0_0_3 nd_2_0_666_3500 nd_2_0_666_4500 0.016324
rd_2_1_0_0_4 nd_2_0_666_4500 nd_2_0_666_5500 0.016324
rd_2_1_0_0_5 nd_2_0_666_5500 nd_2_0_666_6500 0.016324
rd_2_1_0_0_6 nd_2_0_666_6500 nd_2_0_666_7500 0.016324
rd_2_1_0_0_7 nd_2_0_666_7500 nd_2_0_666_8500 0.016324
rd_2_1_0_0_8 nd_2_0_666_8500 nd_2_0_666_9500 0.016324
rd_2_1_0_1_0 nd_2_0_2000_500 nd_2_0_2000_1500 0.016324
rd_2_1_0_1_1 nd_2_0_2000_1500 nd_2_0_2000_2500 0.016324
rd_2_1_0_1_2 nd_2_0_2000_2500 nd_2_0_2000_3500 0.016324
rd_2_1_0_1_3 nd_2_0_2000_3500 nd_2_0_2000_4500 0.016324
rd_2_1_0_1_4 nd_2_0_2000_4500 nd_2_0_2000_5500 0.016324
rd_2_1_0_1_5 nd_2_0_2000_5500 nd_2_0_2000_6500 0.016324
rd_2_1_0_1_6 nd_2_0_2000_6500 nd_2_0_2000_7500 0.016324
rd_2_1_0_1_7 nd_2_0_2000_7500 nd_2_0_2000_8500 0.016324
rd_2_1_0_1_8 nd_2_0_2000_8500 nd_2_0_2000_9500 0.016324
rd_2_1_0_2_0 nd_2_0_3333_500 nd_2_0_3333_1500 0.016324
rd_2_1_0_2_1 nd_2_0_3333_1500 nd_2_0_3333_2500 0.016324
rd_2_1_0_2_2 nd_2_0_3333_2500 nd_2_0_3333_3500 0.016324
rd_2_1_0_2_3 nd_2_0_3333_3500 nd_2_0_3333_4500 0.016324
rd_2_1_0_2_4 nd_2_0_3333_4500 nd_2_0_3333_5500 0.016324
rd_2_1_0_2_5 nd_2_0_3333_5500 nd_2_0_3333_6500 0.016324
rd_2_1_0_2_6 nd_2_0_3333_6500 nd_2_0_3333_7500 0.016324
rd_2_1_0_2_7 nd_2_0_3333_7500 nd_2_0_3333_8500 0.016324
rd_2_1_0_2_8 nd_2_0_3333_8500 nd_2_0_3333_9500 0.016324
rd_2_1_0_3_0 nd_2_0_4666_500 nd_2_0_4666_1500 0.016324
rd_2_1_0_3_1 nd_2_0_4666_1500 nd_2_0_4666_2500 0.016324
rd_2_1_0_3_2 nd_2_0_4666_2500 nd_2_0_4666_3500 0.016324
rd_2_1_0_3_3 nd_2_0_4666_3500 nd_2_0_4666_4500 0.016324
rd_2_1_0_3_4 nd_2_0_4666_4500 nd_2_0_4666_5500 0.016324
rd_2_1_0_3_5 nd_2_0_4666_5500 nd_2_0_4666_6500 0.016324
rd_2_1_0_3_6 nd_2_0_4666_6500 nd_2_0_4666_7500 0.016324
rd_2_1_0_3_7 nd_2_0_4666_7500 nd_2_0_4666_8500 0.016324
rd_2_1_0_3_8 nd_2_0_4666_8500 nd_2_0_4666_9500 0.016324
rd_2_1_0_4_0 nd_2_0_6000_500 nd_2_0_6000_1500 0.016324
rd_2_1_0_4_1 nd_2_0_6000_1500 nd_2_0_6000_2500 0.016324
rd_2_1_0_4_2 nd_2_0_6000_2500 nd_2_0_6000_3500 0.016324
rd_2_1_0_4_3 nd_2_0_6000_3500 nd_2_0_6000_4500 0.016324
rd_2_1_0_4_4 nd_2_0_6000_4500 nd_2_0_6000_5500 0.016324
rd_2_1_0_4_5 nd_2_0_6000_5500 nd_2_0_6000_6500 0.016324
rd_2_1_0_4_6 nd_2_0_6000_6500 nd_2_0_6000_7500 0.016324
rd_2_1_0_4_7 nd_2_0_6000_7500 nd_2_0_6000_8500 0.016324
rd_2_1_0_4_8 nd_2_0_6000_8500 nd_2_0_6000_9500 0.016324
rd_2_1_0_5_0 nd_2_0_7333_500 nd_2_0_7333_1500 0.016324
rd_2_1_0_5_1 nd_2_0_7333_1500 nd_2_0_7333_2500 0.016324
rd_2_1_0_5_2 nd_2_0_7333_2500 nd_2_0_7333_3500 0.016324
rd_2_1_0_5_3 nd_2_0_7333_3500 nd_2_0_7333_4500 0.016324
rd_2_1_0_5_4 nd_2_0_7333_4500 nd_2_0_7333_5500 0.016324
rd_2_1_0_5_5 nd_2_0_7333_5500 nd_2_0_7333_6500 0.016324
rd_2_1_0_5_6 nd_2_0_7333_6500 nd_2_0_7333_7500 0.016324
rd_2_1_0_5_7 nd_2_0_7333_7500 nd_2_0_7333_8500 0.016324
rd_2_1_0_5_8 nd_2_0_7333_8500 nd_2_0_7333_9500 0.016324
rd_2_1_0_6_0 nd_2_0_8666_500 nd_2_0_8666_1500 0.016324
rd_2_1_0_6_1 nd_2_0_8666_1500 nd_2_0_8666_2500 0.016324
rd_2_1_0_6_2 nd_2_0_8666_2500 nd_2_0_8666_3500 0.016324
rd_2_1_0_6_3 nd_2_0_8666_3500 nd_2_0_8666_4500 0.016324
rd_2_1_0_6_4 nd_2_0_8666_4500 nd_2_0_8666_5500 0.016324
rd_2_1_0_6_5 nd_2_0_8666_5500 nd_2_0_8666_6500 0.016324
rd_2_1_0_6_6 nd_2_0_8666_6500 nd_2_0_8666_7500 0.016324
rd_2_1_0_6_7 nd_2_0_8666_7500 nd_2_0_8666_8500 0.016324
rd_2_1_0_6_8 nd_2_0_8666_8500 nd_2_0_8666_9500 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_500 nd_2_0_666_500 0.005
rvd_1_0_0_1 nd_1_0_2000_500 nd_2_0_2000_500 0.005
rvd_1_0_0_2 nd_1_0_3333_500 nd_2_0_3333_500 0.005
rvd_1_0_0_3 nd_1_0_4666_500 nd_2_0_4666_500 0.005
rvd_1_0_0_4 nd_1_0_6000_500 nd_2_0_6000_500 0.005
rvd_1_0_0_5 nd_1_0_7333_500 nd_2_0_7333_500 0.005
rvd_1_0_0_6 nd_1_0_8666_500 nd_2_0_8666_500 0.005
rvd_1_0_1_0 nd_1_0_666_1500 nd_2_0_666_1500 0.005
rvd_1_0_1_1 nd_1_0_2000_1500 nd_2_0_2000_1500 0.005
rvd_1_0_1_2 nd_1_0_3333_1500 nd_2_0_3333_1500 0.005
rvd_1_0_1_3 nd_1_0_4666_1500 nd_2_0_4666_1500 0.005
rvd_1_0_1_4 nd_1_0_6000_1500 nd_2_0_6000_1500 0.005
rvd_1_0_1_5 nd_1_0_7333_1500 nd_2_0_7333_1500 0.005
rvd_1_0_1_6 nd_1_0_8666_1500 nd_2_0_8666_1500 0.005
rvd_1_0_2_0 nd_1_0_666_2500 nd_2_0_666_2500 0.005
rvd_1_0_2_1 nd_1_0_2000_2500 nd_2_0_2000_2500 0.005
rvd_1_0_2_2 nd_1_0_3333_2500 nd_2_0_3333_2500 0.005
rvd_1_0_2_3 nd_1_0_4666_2500 nd_2_0_4666_2500 0.005
rvd_1_0_2_4 nd_1_0_6000_2500 nd_2_0_6000_2500 0.005
rvd_1_0_2_5 nd_1_0_7333_2500 nd_2_0_7333_2500 0.005
rvd_1_0_2_6 nd_1_0_8666_2500 nd_2_0_8666_2500 0.005
rvd_1_0_3_0 nd_1_0_666_3500 nd_2_0_666_3500 0.005
rvd_1_0_3_1 nd_1_0_2000_3500 nd_2_0_2000_3500 0.005
rvd_1_0_3_2 nd_1_0_3333_3500 nd_2_0_3333_3500 0.005
rvd_1_0_3_3 nd_1_0_4666_3500 nd_2_0_4666_3500 0.005
rvd_1_0_3_4 nd_1_0_6000_3500 nd_2_0_6000_3500 0.005
rvd_1_0_3_5 nd_1_0_7333_3500 nd_2_0_7333_3500 0.005
rvd_1_0_3_6 nd_1_0_8666_3500 nd_2_0_8666_3500 0.005
rvd_1_0_4_0 nd_1_0_666_4500 nd_2_0_666_4500 0.005
rvd_1_0_4_1 nd_1_0_2000_4500 nd_2_0_2000_4500 0.005
rvd_1_0_4_2 nd_1_0_3333_4500 nd_2_0_3333_4500 0.005
rvd_1_0_4_3 nd_1_0_4666_4500 nd_2_0_4666_4500 0.005
rvd_1_0_4_4 nd_1_0_6000_4500 nd_2_0_6000_4500 0.005
rvd_1_0_4_5 nd_1_0_7333_4500 nd_2_0_7333_4500 0.005
rvd_1_0_4_6 nd_1_0_8666_4500 nd_2_0_8666_4500 0.005
rvd_1_0_5_0 nd_1_0_666_5500 nd_2_0_666_5500 0.005
rvd_1_0_5_1 nd_1_0_2000_5500 nd_2_0_2000_5500 0.005
rvd_1_0_5_2 nd_1_0_3333_5500 nd_2_0_3333_5500 0.005
rvd_1_0_5_3 nd_1_0_4666_5500 nd_2_0_4666_5500 0.005
rvd_1_0_5_4 nd_1_0_6000_5500 nd_2_0_6000_5500 0.005
rvd_1_0_5_5 nd_1_0_7333_5500 nd_2_0_7333_5500 0.005
rvd_1_0_5_6 nd_1_0_8666_5500 nd_2_0_8666_5500 0.005
rvd_1_0_6_0 nd_1_0_666_6500 nd_2_0_666_6500 0.005
rvd_1_0_6_1 nd_1_0_2000_6500 nd_2_0_2000_6500 0.005
rvd_1_0_6_2 nd_1_0_3333_6500 nd_2_0_3333_6500 0.005
rvd_1_0_6_3 nd_1_0_4666_6500 nd_2_0_4666_6500 0.005
rvd_1_0_6_4 nd_1_0_6000_6500 nd_2_0_6000_6500 0.005
rvd_1_0_6_5 nd_1_0_7333_6500 nd_2_0_7333_6500 0.005
rvd_1_0_6_6 nd_1_0_8666_6500 nd_2_0_8666_6500 0.005
rvd_1_0_7_0 nd_1_0_666_7500 nd_2_0_666_7500 0.005
rvd_1_0_7_1 nd_1_0_2000_7500 nd_2_0_2000_7500 0.005
rvd_1_0_7_2 nd_1_0_3333_7500 nd_2_0_3333_7500 0.005
rvd_1_0_7_3 nd_1_0_4666_7500 nd_2_0_4666_7500 0.005
rvd_1_0_7_4 nd_1_0_6000_7500 nd_2_0_6000_7500 0.005
rvd_1_0_7_5 nd_1_0_7333_7500 nd_2_0_7333_7500 0.005
rvd_1_0_7_6 nd_1_0_8666_7500 nd_2_0_8666_7500 0.005
rvd_1_0_8_0 nd_1_0_666_8500 nd_2_0_666_8500 0.005
rvd_1_0_8_1 nd_1_0_2000_8500 nd_2_0_2000_8500 0.005
rvd_1_0_8_2 nd_1_0_3333_8500 nd_2_0_3333_8500 0.005
rvd_1_0_8_3 nd_1_0_4666_8500 nd_2_0_4666_8500 0.005
rvd_1_0_8_4 nd_1_0_6000_8500 nd_2_0_6000_8500 0.005
rvd_1_0_8_5 nd_1_0_7333_8500 nd_2_0_7333_8500 0.005
rvd_1_0_8_6 nd_1_0_8666_8500 nd_2_0_8666_8500 0.005
rvd_1_0_9_0 nd_1_0_666_9500 nd_2_0_666_9500 0.005
rvd_1_0_9_1 nd_1_0_2000_9500 nd_2_0_2000_9500 0.005
rvd_1_0_9_2 nd_1_0_3333_9500 nd_2_0_3333_9500 0.005
rvd_1_0_9_3 nd_1_0_4666_9500 nd_2_0_4666_9500 0.005
rvd_1_0_9_4 nd_1_0_6000_9500 nd_2_0_6000_9500 0.005
rvd_1_0_9_5 nd_1_0_7333_9500 nd_2_0_7333_9500 0.005
rvd_1_0_9_6 nd_1_0_8666_9500 nd_2_0_8666_9500 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_666_500 0 0.000213385
id_0_0_0_1 nd_1_0_2000_500 0 0.0135632
id_0_0_0_2 nd_1_0_3333_500 0 0.0176248
id_0_0_0_3 nd_1_0_4666_500 0 0.000354337
id_0_0_0_4 nd_1_0_6000_500 0 0.00442279
id_0_0_0_5 nd_1_0_7333_500 0 0.00839556
id_0_0_0_6 nd_1_0_8666_500 0 0.0125638
id_0_0_0_7 nd_1_0_666_1500 0 0.0045744
id_0_0_0_8 nd_1_0_2000_1500 0 0.00864117
id_0_0_0_9 nd_1_0_3333_1500 0 0.00328387
id_0_0_0_10 nd_1_0_4666_1500 0 0.0168626
id_0_0_0_11 nd_1_0_6000_1500 0 0.00208411
id_0_0_0_12 nd_1_0_7333_1500 0 0.0128428
id_0_0_0_13 nd_1_0_8666_1500 0 0.0169002
id_0_0_0_14 nd_1_0_666_2500 0 0.0116207
id_0_0_0_15 nd_1_0_2000_2500 0 0.00624816
id_0_0_0_16 nd_1_0_3333_2500 0 0.00778027
id_0_0_0_17 nd_1_0_4666_2500 0 0.0117678
id_0_0_0_18 nd_1_0_6000_2500 0 0.00646303
id_0_0_0_19 nd_1_0_7333_2500 0 0.0105197
id_0_0_0_20 nd_1_0_8666_2500 0 0.0119458
id_0_0_0_21 nd_1_0_666_3500 0 0.0160291
id_0_0_0_22 nd_1_0_2000_3500 0 0.0106672
id_0_0_0_23 nd_1_0_3333_3500 0 0.00541948
id_0_0_0_24 nd_1_0_4666_3500 0 0.00676559
id_0_0_0_25 nd_1_0_6000_3500 0 0.0107688
id_0_0_0_26 nd_1_0_7333_3500 0 0.014957
id_0_0_0_27 nd_1_0_8666_3500 0 0.00966403
id_0_0_0_28 nd_1_0_666_4500 0 0.0111214
id_0_0_0_29 nd_1_0_2000_4500 0 0.00574964
id_0_0_0_30 nd_1_0_3333_4500 0 0.000469108
id_0_0_0_31 nd_1_0_4666_4500 0 0.00447246
id_0_0_0_32 nd_1_0_6000_4500 0 0.0151904
id_0_0_0_33 nd_1_0_7333_4500 0 0.000514261
id_0_0_0_34 nd_1_0_8666_4500 0 0.013968
id_0_0_0_35 nd_1_0_666_5500 0 0.0087292
id_0_0_0_36 nd_1_0_2000_5500 0 0.0128141
id_0_0_0_37 nd_1_0_3333_5500 0 0.014175
id_0_0_0_38 nd_1_0_4666_5500 0 0.0181445
id_0_0_0_39 nd_1_0_6000_5500 0 0.0128864
id_0_0_0_40 nd_1_0_7333_5500 0 0.0168967
id_0_0_0_41 nd_1_0_8666_5500 0 0.0183506
id_0_0_0_42 nd_1_0_666_6500 0 0.0130545
id_0_0_0_43 nd_1_0_2000_6500 0 0.0171258
id_0_0_0_44 nd_1_0_3333_6500 0 0.0117783
id_0_0_0_45 nd_1_0_4666_6500 0 0.00379793
id_0_0_0_46 nd_1_0_6000_6500 0 0.00790572
id_0_0_0_47 nd_1_0_7333_6500 0 0.00259841
id_0_0_0_48 nd_1_0_8666_6500 0 0.00666734
id_0_0_0_49 nd_1_0_666_7500 0 0.00802372
id_0_0_0_50 nd_1_0_2000_7500 0 0.0121914
id_0_0_0_51 nd_1_0_3333_7500 0 0.0161558
id_0_0_0_52 nd_1_0_4666_7500 0 0.0108866
id_0_0_0_53 nd_1_0_6000_7500 0 0.0029411
id_0_0_0_54 nd_1_0_7333_7500 0 0.0164172
id_0_0_0_55 nd_1_0_8666_7500 0 0.0110778
id_0_0_0_56 nd_1_0_666_8500 0 0.00579062
id_0_0_0_57 nd_1_0_2000_8500 0 0.0165835
id_0_0_0_58 nd_1_0_3333_8500 0 0.0111497
id_0_0_0_59 nd_1_0_4666_8500 0 0.00589451
id_0_0_0_60 nd_1_0_6000_8500 0 0.000530378
id_0_0_0_61 nd_1_0_7333_8500 0 0.0020624
id_0_0_0_62 nd_1_0_8666_8500 0 0.00604622
id_0_0_0_63 nd_1_0_666_9500 0 0.010215
id_0_0_0_64 nd_1_0_2000_9500 0 0.00486742
id_0_0_0_65 nd_1_0_3333_9500 0 0.00893629
id_0_0_0_66 nd_1_0_4666_9500 0 0.000913669
id_0_0_0_67 nd_1_0_6000_9500 0 0.0143802
id_0_0_0_68 nd_1_0_7333_9500 0 0.00910349
id_0_0_0_69 nd_1_0_8666_9500 0 0.0131463

*-- intentional decap
cd_add_cap0 nd_1_0_2000_1500 nd0 'dcap_int_val142'
cd_add_cap1 nd_1_0_4666_1500 nd1 'dcap_int_val143'
cd_add_cap2 nd_1_0_7333_1500 nd2 'dcap_int_val144'
cd_add_cap3 nd_1_0_2000_3500 nd3 'dcap_int_val145'
cd_add_cap4 nd_1_0_4666_3500 nd4 'dcap_int_val146'
cd_add_cap5 nd_1_0_7333_3500 nd5 'dcap_int_val147'
cd_add_cap6 nd_1_0_2000_5500 nd6 'dcap_int_val148'
cd_add_cap7 nd_1_0_4666_5500 nd7 'dcap_int_val149'
cd_add_cap8 nd_1_0_7333_5500 nd8 'dcap_int_val150'
cd_add_cap9 nd_1_0_2000_8500 nd9 'dcap_int_val151'
cd_add_cap10 nd_1_0_4666_8500 nd10 'dcap_int_val152'
cd_add_cap11 nd_1_0_7333_8500 nd11 'dcap_int_val153'
rd_add0 nd0 0 'esr23'
rd_add1 nd1 0 'esr24'
rd_add2 nd2 0 'esr25'
rd_add3 nd3 0 'esr26'
rd_add4 nd4 0 'esr27'
rd_add5 nd5 0 'esr28'
rd_add6 nd6 0 'esr29'
rd_add7 nd7 0 'esr30'
rd_add8 nd8 0 'esr31'
rd_add9 nd9 0 'esr32'
rd_add10 nd10 0 'esr33'
rd_add11 nd11 0 'esr34'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_4_7 nd_pad_port_4_7 nd_pad_4_7 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
xd_pad_5_6 nd_pad_port_5_6 nd_pad_5_6 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_2000_2500  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_2000_4500  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_2000_6500  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_2000_8500  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3333_1500  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3333_3500  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3333_5500  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_3333_7500  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_4666_2500  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_4666_4500  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_4666_6500  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_4666_8500  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_6000_1500  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_6000_3500  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_6000_5500  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_6000_7500  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_7333_2500  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_7333_4500  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_7333_6500  0.001
rd_pad2via_4_7 nd_pad_4_7 nd_2_0_7333_8500  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_8666_1500  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_8666_3500  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_8666_5500  0.001
rd_pad2via_5_6 nd_pad_5_6 nd_2_0_8666_7500  0.001

.ends chiplet4
